US04492692
An aqueous solution of dimethylamine hydrochloride and NaCN was added to a solution of 2-fluoro-4-formyl-1-triphenylmethylimidazole in THF. After stirring 3 hours at 20°, work-up gave 4-(1-dimethylaminocyanomethyl)-2-fluoro-1-triphenylmethylimidazole having the following n.m.r. in CDCl3 : 2.31 (s, 6H); 4.64 (s, 1H); 6.68 (s, 1H); 7.04-7.45 (m, 15H).

reactant | dimethylamine hydrochloride | Cl.CNC
reactant | NaCN | [C-]#N.[Na+]
reactant | 2-fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-dimethylaminocyanomethyl)-2-fluoro-1-triphenylmethylimidazole | CN(C(C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)C#N)C | C26H23FN4
